US04788185
To a solution of 13 g of 2-(tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid in 100 ml of dichloromethane, 7 g of phosphorus pentachloride is added and the mixture is stirrred for 20 minutes under ice-cooling. The reaction mixture is evaporated to dryness and to the residue is added hexane and the solvent is evaporated off again. The residue is dissolved in 5 ml of dichloromethane and the solution is added under ice-cooling to a solution prepared by allowing 10 g of 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid and 16 g of N,O-bistrimethylsilylacetamide to react in 200 ml of dichloromethane at room temperature for one hour. The mixture is stirred at the same temperature for one hour and the solvent is then evaporated under reduced pressure. The residue is dissolved in 300 ml of ethyl acetate and the solution is washed with water and then dried over anhydrous magnesium sulfate. Then, the solvent is evaporated off and the residue is triturated with hexane. Insoluble substance is collected by filtration to give 23 g of 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid.

reactant | 2-(tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid | 13 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C | C15H22N4O7S
reactant | phosphorus pentachloride | 7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 10 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 23 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC(=O)OC(C)(C)C | C27H34N6O12S2
